US06150373
A solution of 350 mg (0.6 mmol) of (2-[3-[3-(2,6-dichlorophenyl)-7-methylthio-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester in 10 ml of dichloromethane was treated with 400 mg (1.2 mmol) of 3-chloroperbenzoic acid (50% w/w water) and the mixture stirred for 3 hours. Dimethyl sulfoxide (0.5 ml) was added. After a further 10 minutes 10 ml of saturated aqueous sodium bicarbonate was added. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 370 mg (100%) of (2-[3-[3-(2,6-dichlorophenyl)-7-methanesulfonyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester as a white solid. [Mass spectrum (ESI) MH+ =620].

reactant | (2-[3-[3-(2,6-dichlorophenyl)-7-methylthio-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 0.6 mmol, 350 mg | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N1C(N(CC=2C1=NC(=NC2)SC)C2=C(C=CC=C2Cl)Cl)=O)(C)C)=O | C28H31Cl2N5O3S
reactant | 3-chloroperbenzoic acid | 1.2 mmol, 400 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Dimethyl sulfoxide | 0.5 ml | CS(=O)C | C2H6OS
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2-[3-[3-(2,6-dichlorophenyl)-7-methanesulfonyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 370 mg, 100% | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N1C(N(CC=2C1=NC(=NC2)S(=O)(=O)C)C2=C(C=CC=C2Cl)Cl)=O)(C)C)=O | C28H31Cl2N5O5S
